US06432993B1
(33-2) 5-{4-[6-(4-Benzyl-3-hydroxyphenoxy)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione hydrochloride
A mixture of t-butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(4-benzyl-3-hydroxyphenoxy)phenyl}-N-methylcarbamate (1.4 g) and 4N hydrogen chloride/dioxane (20 ml) was stirred at ambient temperature for 3 days. On addition of ethyl acetate and n-hexane insoluble product was formed and isolated by filtration to give the title compound (1.5 g)

reactant | t-butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(4-benzyl-3-hydroxyphenoxy)phenyl}-N-methylcarbamate | 1.4 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)NC2=C(C=C(C=C2)OC2=CC(=C(C=C2)CC2=CC=CC=C2)O)N(C(OC(C)(C)C)=O)C)C=C1 | C37H37N3O8S
reactant | hydrogen chloride dioxane | 4N, 20 ml | Cl.O1CCOCC1
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | n-hexane | CCCCCC | C6H14
product | 5-{4-[6-(4-Benzyl-3-hydroxyphenoxy)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione hydrochloride | 1.5 g | Cl.C(C1=CC=CC=C1)C1=C(C=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1)O | InChI=1S/C32H27N3O5S.ClH/c1-35-27-17-24(40-25-12-9-22(28(36)18-25)15-20-5-3-2-4-6-20)13-14-26(27)33-30(35)19-39-23-10-7-21(8-11-23)16-29-31(37)34-32(38)41-29;/h2-14,17-18,29,36H,15-16,19H2,1H3,(H,34,37,38);1H
